US09079866B2
5-(5-{2-[(4-Aminopyrimidin-2-yl)oxy]phenyl}pyridin-2-yl)pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)pyrimidin-4-amine and 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine. MS (ESI): mass calcd. for C19H15N7O, 357.13; m/z found, 358.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.86 (s, 2H), 8.64 (dd, J=2.3, 0.8, 1H), 7.95 (dd, J=8.3, 2.3, 1H), 7.78-7.72 (m, 2H), 7.53-7.45 (m, 2H), 7.38 (m, 1H), 7.23 (dd, J=8.1, 1.2, 1H), 6.11 (d, J=5.9, 1H).

reactant | 2-(2-bromophenoxy)pyrimidin-4-amine | BrC1=C(OC2=NC=CC(=N2)N)C=CC=C1 | C10H8BrN3O
reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
product | 5-(5-{2-[(4-Aminopyrimidin-2-yl)oxy]phenyl}pyridin-2-yl)pyrimidin-2-amine | NC1=NC(=NC=C1)OC1=C(C=CC=C1)C=1C=CC(=NC1)C=1C=NC(=NC1)N | C19H15N7O
